US07285563B2
N-benzyl-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and benzyl isocyanate. m/z (ES+) 278 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | N-benzyl-N′-[quinolin-6-yl]urea | C(C1=CC=CC=C1)NC(=O)NC=1C=C2C=CC=NC2=CC1 | C17H15N3O
